US07666879B2
2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-(5-tert-butyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester
Dissolve 5-tert-butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-ylamine (5.5 g, 0.018 mol) in THF (100 mL) under N2 and cool to 0° C. Add pyridine (1.6 mL, 1.1 equiv.) via syringe followed by dropwise addition of 2,2,2-trichloroethyl chloroformate (2.7 mL, 1.1 equiv.). Stir the reaction at 0° C. for one hour then remove the cooling bath and allow the reaction to stir for a total of 5 hours. Dilute the reaction with ethyl acetate and water. Wash the organic layer with water then saturated aqueous saturated sodium chloride and then dry over magnesium sulfate, filter, and concentrate in vacuo to give a residue (8.7 g, 100%) that is used without further purification. MS (ES), m/z 474 (M+1).

reactant | 5-tert-butyl-2-[2-(tert-butyl-dimethyl-silanyloxy)-ethyl]-2H-pyrazol-3-ylamine | 0.018 mol, 5.5 g | C(C)(C)(C)C=1C=C(N(N1)CCO[Si](C)(C)C(C)(C)C)N | C15H31N3OSi
reactant | pyridine | 1.6 mL, 1.1 equiv. | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 2.7 mL, 1.1 equiv. | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 2-[2-(tert-Butyl-dimethyl-silanyloxy)-ethyl]-(5-tert-butyl-2H-pyrazol-3-yl)-carbamic acid 2,2,2-trichloro-ethyl ester | 8.7 g, 100% | ClC(COC(NC=1N(N=C(C1)C(C)(C)C)CCO[Si](C)(C)C(C)(C)C)=O)(Cl)Cl | C18H32Cl3N3O3Si
